US04814468
7,7-Ethylenedioxy-cis-bicyclo[3.3.0]octan-3-one (IV)'
A mixture of 53.9 g of 3,3,7,7-diethylenedioxy-cis-bicyclo[3.3.0]octane as prepared in Referential Example 1, 2.26 g of p-toluenesulfonic acid and 500 ml of acetone-water (3:1) was stirred at room temperature for 1 hour and 40 minutes. Then, to the mixture was added 50 ml of saturated aqueous sodium hydrogencarbonate solution, the deposited crystals was filtered off and acetone was removed in vacuo from the filtrate, and the residue was extracted with chloroform. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated. To the residue was added to 50 ml of a mixture of n-hexane/diethyl ether (1:1) and then crystals were deposited. After separating out the crystals by filtration, the filtrate was concentrated, and the residue was purified by silica gel chromatography (eluting solution: 20-30% (v/v) ethyl acetate/n-hexane) to obtain 20.4 g of the oily title compound.

reactant | p-toluenesulfonic acid | 2.26 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogencarbonate | 50 ml | C(O)([O-])=O.[Na+]
reactant | acetone water | 500 ml | CC(=O)C.O
product | 7,7-Ethylenedioxy-cis-bicyclo[3.3.0]octan-3-one | 20.4 g | C1OC2(C[C@@H]3CC(C[C@@H]3C2)=O)OC1 | C10H14O3
